US05496805
3-Acetylthio-2-benzylpropanoyl chloride and (L)-tyrosine, methyl ester, hydrochloride are reacted in the presence of diisopropylethylamine according to the procedure of Example 26 to give (±)-N-[2-(acetyl-thiomethyl) -1-oxo-3-phenylpropyl]-L-tyrosine, methyl ester.

reactant | 3-Acetylthio-2-benzylpropanoyl chloride | C(C)(=O)SCC(C(=O)Cl)CC1=CC=CC=C1 | C12H13ClO2S
reactant | (L)-tyrosine, methyl ester, hydrochloride | Cl.N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | (±)-N-[2-(acetyl-thiomethyl) -1-oxo-3-phenylpropyl]-L-tyrosine, methyl ester | C(C)(=O)SCC(C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC)CC1=CC=CC=C1 | C22H25NO5S
